US07994163B2
To a solution of 3-tert-butoxycarbonyl-7-chloro-6-mercaptomethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine (0.051 g, 0.155 mmol) in dry dioxane (0.7 mL) add N-[4-(4-bromo-phenyl)-thiazol-2-yl]-cyclopropylmethylamine (0.043 g, 0.14 mmol), tris(dibenzylideneacetone)dipalladium(0) (3.2 mg, 0.0035 mmol), Xantphos (4.1 mg, 0.014 mmol) and diisopropylethylamine (0.049 mL, 0.28 mmol) at room temperature. Purge the reaction mixture with nitrogen and heat the mixture at 100° C. overnight. Cool the reaction mixture to room temperature, dilute with DCM (50 mL) and filter through Celite®. Concentrate the filtrate in vacuo. Dissolve the residue in DCM, load the solution on to a RediSep® column (40 g) and purify the crude mixture by preparative liquid chromatography (0:100 to 25:75 EtOAc/hexane over 33 min; 35 mL/min) to afford 3-tert-butoxycarbonyl-7-chloro-6-{4-[2-(cyclopropylmethyl-amino)-thiazol-4-yl]-phenylthiomethyl}-2,3,4,5-tetrahydro-1H-benzo[d]azepine (0.076 g, 97%) as a colorless oil.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-mercaptomethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.155 mmol, 0.051 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)CS | C16H22ClNO2S
reactant | N-[4-(4-bromo-phenyl)-thiazol-2-yl]-cyclopropylmethylamine | 0.14 mmol, 0.043 g | BrC1=CC=C(C=C1)C=1N=C(SC1)NCC1CC1 | C13H13BrN2S
reactant | Xantphos | 0.014 mmol, 4.1 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | diisopropylethylamine | 0.28 mmol, 0.049 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dioxane | 0.7 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.0035 mmol, 3.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-tert-butoxycarbonyl-7-chloro-6-{4-[2-(cyclopropylmethyl-amino)-thiazol-4-yl]-phenylthiomethyl}-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.076 g, 97% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)CSC2=CC=C(C=C2)C=2N=C(SC2)NCC2CC2 | C29H34ClN3O2S2
